US07335658B2
2-(2-METHOXYETHOXY)-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}ACETAMIDE
Following the procedure of Example 2, making variations only as required to use (2-methoxyethoxy)acetic acid in place of benzyloxyacetic acid to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (72% yield). 1H NMR (300 MHz, CDCl3) δ 9.53, 8.34, 7.74, 7.63, 7.56, 7.34, 7.02, 4.16, 4.04-3.89, 3.80-3.77, 3.69-3.65, 3.63-3.61, 3.59-3.56, 3.46, 3.34-3.32. MS (ES+) m/z 468.3 (M+1).

reactant | (2-methoxyethoxy)acetic acid | COCCOCC(=O)O | C5H10O4
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 2-(2-METHOXYETHOXY)-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}ACETAMIDE | COCCOCC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C21H24F3N5O4
